US07220862B2
(±)-3-(7-Ethyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester
A stirred solution of (±)-2-amino-3-(7-ethyl-1H-indazol-5-yl)-propionic acid methyl ester (100 mg, 0.41 mmol) in tetrahydrofuran (2 mL) at 0° C. was treated with carbonyl diimidazole (66 mg, 1 equiv). The reaction was stirred for 5 min, warmed to room temperature, stirred for 15 min, and then treated with 3-piperidin-4-yl-3,4dihydro-1H-quinazolin-2-one (103 mg, 1.1 equiv). The mixture was stirred at room temperature overnight. The solvent was evaporated and the residue purified by column chromatography to give 188 mg (92%) as a white solid. 1H-NMR (CDCl3, 500 MHz) δ 1.36 (t, J=7.6, 3H), 1.69 (m, 4H), 2.86 (m, 2H), 2.90 (q, J=7.6, 2H), 3.22 (dd, J=5.5, 4.9, 2H), 3.75 (s, 3H), 4.03 (dd, J=44.0, 13.7, 2H), 4.26 (s, 2H), 4.51 (m, 1H), 4.84 (m, 1H), 5.02 (m, 1H), 6.70 (d, J=7.9, 1H), 6.90–7.05 (m, 4H), 7.16 (dd, J=7.6, 7.6, 1H), 7.34 (s, 1H), 8.03 (s, 1H). Mass spec.: 505.29 (MH)+.

reactant | (±)-2-amino-3-(7-ethyl-1H-indazol-5-yl)-propionic acid methyl ester | 0.41 mmol, 100 mg | COC(C(CC=1C=C2C=NNC2=C(C1)CC)N)=O | C13H17N3O2
reactant | carbonyl diimidazole | 66 mg, 1 equiv | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-piperidin-4-yl-3,4dihydro-1H-quinazolin-2-one | 103 mg, 1.1 equiv | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (±)-3-(7-Ethyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester | COC(C(CC=1C=C2C=NNC2=C(C1)CC)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C27H32N6O4
